* C:\Users\emman\OneDrive\Desktop\Acads\EEE148\Simulation 1\Draft1.asc
C1 out in 50e-9
R1 out 0 1k
V1 in 0 SINE(0 1) AC 1
.ac dec 10 1 100k
.backanno
.end
