* C:\Users\emman\OneDrive\Desktop\Acads\EEE148\Sim_1.asc
V1 in 0 SINE(0 10 1k)
R1 out in 1k
D1 0 out 1N4148
.model D D
.lib C:\Users\emman\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 10m 0 0.01m
.backanno
.end
