* C:\Users\emman\OneDrive\Desktop\Acads\EEE148\Simulation 1\Sim_1_4.asc
V1 in 0 SINE(0 10 1k)
D1 in out 1N4148
C1 0 out 1e-6
.model D D
.lib C:\Users\emman\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 5m 0 .1m
.backanno
.end
